US06936608B2
4-(5-Amino-2-fluorophenyl)nicotinonitrile (0.65 g, 3.05 mmol) was treated with 48% hydrobromic acid (25 ml) and the resulting suspension stirred and cooled to 3° C. (internal temperature). A solution of sodium nitrite (0.24 g, 3.5 mmol) in water (1 ml) was then added dropwise over 20 min keeping the internal temperature <5° C. Stirring at <5° C. was continued for 2 h before pouring the reaction into a cooled (5° C.) solution of freshly purified copper(I) bromide (1.53 g, 10.7 mmol) in 48% hydrobromic acid (10 ml). The resulting purple reaction mixture was stirred at 5° C. for 10 min then warmed to 50° C. for 20 min. The reaction was diluted with ice-cold water (50 ml) and extracted with ethyl acetate (2×25 ml). The organic extracts were combined, washed with 5% aqueous sodium sulfite and saturated aqueous ammonium chloride, dried over anhydrous magnesium sulfate, filtered and pre-adsorbed onto silica. Purification by chromatography (silica gel, CH2Cl2) afforded 4-(5-bromo-2-fluorophenyl)-nicotinonitrile as a white solid: 1H NMR (400 MHz, CDCl3) δ 7.17 (1H, t, J 9 Hz), 7.44-7.46 (1H, m), 7.57 (1H, dd, J 6, 2 Hz), 7.61-7.66 (1H, m), 8.87 (1H, d, J 5), 9.00 (1H, d, J 1 Hz).

reactant | 4-(5-Amino-2-fluorophenyl)nicotinonitrile | 3.05 mmol, 0.65 g | NC=1C=CC(=C(C1)C1=CC=NC=C1C#N)F | C12H8FN3
reactant | sodium nitrite | 3.5 mmol, 0.24 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 10 ml | Br | BrH
reactant | hydrobromic acid | 25 ml | Br | BrH
solvent | water | 1 ml | O | H2O
catalyst | copper(I) bromide | 10.7 mmol, 1.53 g | [Cu]Br
product | 4-(5-bromo-2-fluorophenyl)-nicotinonitrile | BrC=1C=CC(=C(C1)C1=CC=NC=C1C#N)F | C12H6BrFN2
